US05886181
1-Acetyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide
70 g (0.77 mmol) of methanesulfonic acid was added slowly to 100 ml (1.75 mol) of acetic acid at room temperature, followed by 20.0 g (184 mmol) of 1,4,5,6-tetrahydropyrazine-2-carbonitrile. 23.0 g (410 mmol) of isobutane were introduced into this mixture at 25° C. and the resulting mixture was stirred for 5 hours. This was then neutralized with 30% sodium hydroxide solution, the temperature always being kept below 30° C. The mixture was adjusted to pH 8-10 and extracted with three times 200 ml of methyl ethyl ketone. The combined organic phases were dried over magnesium sulfate and the solvent was distilled off. The residue (41.2 g) was dissolved in 80 ml of ethyl acetate, with heating. After cooling to 20° C., 500 ml of hexane was added, the mixture was cooled further to 0° C. and, after 1 hour, the precipitated product was filtered off and dried. The yield was 32.6 g (79%) of light beige powder. The melting point of the title compound was: 151.3° to 152.6° C. Other data concerning the product was:

reactant | methanesulfonic acid | 0.77 mmol, 70 g | CS(=O)(=O)O | CH4O3S
reactant | acetic acid | 1.75 mol, 100 ml | C(C)(=O)O | C2H4O2
reactant | 1,4,5,6-tetrahydropyrazine-2-carbonitrile | 184 mmol, 20.0 g | N1C(=CNCC1)C#N | C5H7N3
reactant | isobutane | 410 mmol, 23.0 g | CC(C)C | C4H10
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-Acetyl-1,4,5,6-tetrahydropyrazine-2-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C=1N(CCNC1)C(C)=O | C11H19N3O2
